US04472433
(1) Preparation of 2-oxo-3-methylthio-7-phenoxyindoline
Chlorine gas (3.1 g.) was absorved into dried methylene chloride (70 ml.) under cooling. To the solution was added dropwise a solution of ethyl methylthioacetate (6.35 g.) in methylene chloride (10 ml.) over 30 minutes under stirring at 31 60° C. and stirred for 10 minutes at the same temperature. A solution of 2-phenoxyaniline (17.5 g.) in methylene chloride (10 ml.) was added dropwise to the mixture over 30 minutes at -65° C. and stirred at the same temperature for an hour. A solution of triethylamine (7.5 g.) in methylene chloride (10 ml.) was added dropwise over 15 minutes at -65° C. and stirred for 30 minutes at the same temperature. The reaction mixture was allowed to stand at ambient temperature, and water (40 ml.) was added and stirred for 10 minutes. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The oily residue was subjected to column chromatography on silica gel (400 g.) and eluted with a mixture of benzene and n-hexane (1:1), benzene and ethyl acetate successively. The ethyl acetate eluate was concentrated and the powdery residue was recrystallized from a mixture of benzene and n-hexane to give white needles of the captioned compound (6.25 g.). mp 149° to 150° C.

reactant | Chlorine | 3.1 g | ClCl | Cl2
reactant | ethyl methylthioacetate | 6.35 g | CCC(=S)OCC | C5H10OS
reactant | 2-phenoxyaniline | 17.5 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
reactant | triethylamine | 7.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 40 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-oxo-3-methylthio-7-phenoxyindoline | O=C1NC2=C(C=CC=C2C1SC)OC1=CC=CC=C1 | C15H13NO2S
